US07288654B2
To a solution of methyl 3-[4-(2-butoxyethoxy)phenyl]-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate (720 mg) in THF (25 ml) and methanol (25 ml) was added a 1 N aqueous sodium hydroxide solution (6.4 ml), and the mixture was heated at 90° C. for 3 hours. After cooling to 0° C., water was added thereto, and the mixture was neutralized with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was washed with hexane to give 3-[4-(2-butoxyethoxy)phenyl]-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylic acid (654 mg) as yellow crystals.

reactant | methyl 3-[4-(2-butoxyethoxy)phenyl]-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate | 720 mg | C(CCC)OCCOC1=CC=C(C=C1)C1=CC2=C(N(CCC(=C2)C(=O)OC)CC(C)C)N=C1 | C27H36N2O4
reactant | sodium hydroxide | 1 N, 6.4 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
product | 3-[4-(2-butoxyethoxy)phenyl]-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylic acid | 654 mg | C(CCC)OCCOC1=CC=C(C=C1)C1=CC2=C(N(CCC(=C2)C(=O)O)CC(C)C)N=C1 | C26H34N2O4
